data/mechanisms/records/IMS8-EQ8.60.json
{"mechanism_id": "IMS8-EQ8.60", "species": [{"species_id": "methyl_hydroxycyclohexene_molecular_ion", "mapped_smiles": "[C:1]1([OH+:2])([CH3:3])[CH2:4][CH:5]=[CH:6][CH2:7][CH2:8]1", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "butadiene_neutral_loss", "mapped_smiles": "[CH2:4]=[CH:5][CH:6]=[CH2:7]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "acetone_enol_radical_cation_mz58", "mapped_smiles": "[CH2:8]=[C:1]([CH3:3])[OH+:2]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}], "states": [{"state_id": "state_precursor", "species_ids": ["methyl_hydroxycyclohexene_molecular_ion"]}, {"state_id": "state_products", "species_ids": ["butadiene_neutral_loss", "acetone_enol_radical_cation_mz58"]}], "steps": [{"step_id": "step_alpha2_ring_cleavage", "from_state": "state_precursor", "to_state": "state_products", "step_class": "retro_diels_alder", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [1, 4]}, "target": {"type": "bond", "atom_maps": [1, 8]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 4]}, "target": {"type": "bond", "atom_maps": [4, 5]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [5, 6]}, "target": {"type": "bond", "atom_maps": [4, 5]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [5, 6]}, "target": {"type": "bond", "atom_maps": [6, 7]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [7, 8]}, "target": {"type": "bond", "atom_maps": [6, 7]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [7, 8]}, "target": {"type": "bond", "atom_maps": [1, 8]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_alpha2", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha2_ring_cleavage", "support_type": "textbook_proposed", "locator": {"page": 185, "equation": "8.60", "figure": null, "panel": null, "section": "8.9 Decompositions of cyclic structures"}, "confidence": 0.8, "curator_note": "Equation 8.60: the molecular ion of 4-methyl-4-hydroxycyclohexene (1-methylcyclohex-3-en-1-ol), drawn as a hexagon whose top vertex carries H3C and OH with '+.' printed over the OH, the ring double bond drawn on the lower-left edge, undergoes the alpha^2 cleavage written on the reaction arrow to give neutral 1,3-butadiene (drawn as CH2=CH-CH=CH2) plus the ionised enol CH2=C(OH)CH3+. drawn with '+.' over its OH. Book draws 7 arc(s), every one a single-barbed fishhook. SIX of them run around the ring and ARE the six encoded moves: (a) a short arc crossing over the substituted ring carbon, drawn in the free wedge between the H3C and OH bonds = one electron of the breaking sigma bond map1-map4 into the forming pi bond map1=map8 [move 1] (the same 'arc across the central atom' idiom the book uses under the carbonyl carbon in Equation 8.59); (b) an arc from that same map1-map4 bond down the left of the ring into the map4-map5 bond [move 2]; (c) an arc from the drawn ring double bond map5=map6 up into that same map4-map5 bond [move 3]; (d) an arc from map5=map6 across the bottom of the ring into the map6-map7 bond [move 4]; (e) an arc from the breaking sigma bond map7-map8 into that map6-map7 bond [move 5]; (f) an arc from map7-map8 up the right of the ring into the forming pi bond map1=map8 [move 6]. That set is exactly balanced: the two sigma bonds (map1-map4, map7-map8) and the pi bond (map5=map6) release six electrons and the three new pi bonds (map1=map8, map4=map5, map6=map7) take them up; the oxygen is a spectator that keeps its charge AND its odd electron, exactly as the product is printed. The SEVENTH drawn arc is the big fishhook that starts at the '+.' over the OH, curls to the right and comes back with its barb on the C-O bond: that is the book's alpha-initiation flourish for the stepwise reading of alpha^2 (first alpha cleavage -> ring-opened oxocarbenium HO+=C(CH3)-, second alpha cleavage -> butadiene + the distonic .CH2-C(CH3)=OH+, which is the resonance partner of the drawn CH2=C(OH)CH3+.). It is deliberately NOT encoded: combined with the six ring arcs it would give the carbinol carbon five bonds, so the two are alternative pictures of the same net alpha^2 reaction rather than parts of one flow. Map numbers: 1 = carbinol carbon, 2 = the ionised OH oxygen, 3 = its methyl, 4 = the ring CH2 between carbon 1 and the alkene, 5 and 6 = the two alkene CH's of the drawn double bond, 7 = the remaining ring CH2, 8 = the ring CH2 bonded to carbon 1 that ends up as the =CH2 of the enol ion."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 112.0883, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_58", "species_id": "acetone_enol_radical_cation_mz58", "step_id": "step_alpha2_ring_cleavage", "observed_mz": 58.0413, "relative_intensity": 1.0, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.85}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-27T00:00:00Z", "modified_at": "2026-07-27T00:00:00Z"}}
